US06150533
2,2,2-Trifluoro-N-[3-(1H-indol-3-yl)-propyl]-N-[2-(2-oxo-2,3-dihydro-1H-benzoimidazol-4-yloxy)-ethyl]-acetamide
A mixture of N-[2-(2,3-diamino-phenoxy)-ethyl]-2,2,2-trifluoro-N-[3-(1H-indol-3-yl)-propyl]-acetamide (0.5 g, 1.19 mmol) and diimidazole carbonyl (0.39 g, 2.38 mmol) in anhydrous tetrahyrofuran (50 ml) was stirred at 23° C. for 5 hours. The reaction mixture was poured into water and extracted with ethyl acetate (2×250 ml). The organic layer was washed with water (2×250 ml) and brine (200 ml) and dried over anhydrous magnesium sulfate. The resulting product was concentrated to give the crude product. Purification by chromatography (60% ethyl acetate-hexanes) followed by crystallization from ethyl acetate-hexanes afforded 0.44 g (82.9%) of product as yellowish colored solid: mp 180-181° C.; MS EI m/e 446 (M+).

reactant | N-[2-(2,3-diamino-phenoxy)-ethyl]-2,2,2-trifluoro-N-[3-(1H-indol-3-yl)-propyl]-acetamide | 1.19 mmol, 0.5 g | NC1=C(OCCN(C(C(F)(F)F)=O)CCCC2=CNC3=CC=CC=C23)C=CC=C1N | C21H23F3N4O2
reactant | water | O | H2O
reactant | tetrahyrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2,2,2-Trifluoro-N-[3-(1H-indol-3-yl)-propyl]-N-[2-(2-oxo-2,3-dihydro-1H-benzoimidazol-4-yloxy)-ethyl]-acetamide | 0.44 g, 82.9% | FC(C(=O)N(CCOC1=CC=CC=2NC(NC21)=O)CCCC2=CNC1=CC=CC=C21)(F)F | C22H21F3N4O3
